US07572809B2
Similar procedure as described in example 384 was used, starting from 1-Isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-6-carboxylic acid and 4-Methoxy-piperidine to give [1-Isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-yl]-(4-methoxy-piperidin-1-yl)-methanone. LC-MS: m/e 424 (MH+).

reactant | 1-Isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-6-carboxylic acid | C(C)(C)OC1=NC(=CC2=CC(=CC=C12)C(=O)O)NC1=NNC(=C1)C | C17H18N4O3
reactant | 4-Methoxy-piperidine | COC1CCNCC1 | C6H13NO
product | [1-Isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-yl]-(4-methoxy-piperidin-1-yl)-methanone | C(C)(C)OC1=NC(=CC2=CC(=CC=C12)C(=O)N1CCC(CC1)OC)NC1=NNC(=C1)C | C23H29N5O3
